US06506901B2
1-[4-(4-{[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indole-4-carboxylic Acid
A solution of 1-[4-(4-{[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonyl-amino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indole-4-carboxylic acid methyl ester (0.118 g, 0.18 mmol) and 0.8 mL of 1N NaOH in 10 mL methanol was heated at reflux overnight. On cooling the reaction was neutralized with 0.8 mL of 1N HCl. The reaction mixture was concentrated in vacuo and triturated with H2O. The solids were filtered and dried (high vac) to give 0.095 g of the title compound as an off white solid.

reactant | 1-[4-(4-{[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonyl-amino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indole-4-carboxylic acid methyl ester | 0.18 mmol, 0.118 g | COC(=O)C=1C=2C=CN(C2C=CC1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CNC[C@@H](C1=C(C(=C(C=C1)O)S(=O)(=O)C)N)O | C31H36N4O8S2
reactant | NaOH | 1N, 0.8 mL | [OH-].[Na+]
reactant | HCl | 1N, 0.8 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 1-[4-(4-{[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-1H-indole-4-carboxylic Acid | 0.095 g | O[C@@H](CNCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N1C=CC=2C(=CC=CC12)C(=O)O)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C30H34N4O8S2
